US08729201B2
Preparation of N-(2,6-diisopropylphenyl)quinolin-8-amine (1)
Charge a round bottomed flask equipped with a reflux condenser with tris(dibenzylidene acetone)dipalladium(0)(Pd2(dba)3) (0.090 mmol, Aldrich), racemic 2,2′-bis(diphenylphosphine)-1,1′-binaphthyl (rac-BINAP) (0.207 mmol; Fluka division of Aldrich), and sodium tertiary-butoxide (NaOtBu) (4.05 mmol; Aldrich) in toluene (15 mL). To the resulting suspension add 2,6-diisopropylaniline (2.88 mmol) and 8-bromoquinoline (2.88 mmol), and then heat the resulting mixture under reflux overnight. Pump down the reaction mixture to dryness under vacuum, and purify the resulting crude residue by column chromatography on silica gel eluting with 9:1 pentane:diethyl ether (C5H12:Et2O) to give purified (1) in 38% yield.

reactant | sodium tertiary-butoxide | 4.05 mmol | CC(C)([O-])C.[Na+]
reactant | 2,6-diisopropylaniline | 2.88 mmol | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | 8-bromoquinoline | 2.88 mmol | BrC=1C=CC=C2C=CC=NC12 | C9H6BrN
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-diisopropylphenyl)quinolin-8-amine | 38% yield | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC=1C=CC=C2C=CC=NC12 | C21H24N2
